US06316482B1
The solution of 4-[(1-tert-butoxycarbonyl-2-phthalimidomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (312 mg) in ethanol (5.0 ml) and 1N sodium hydroxide aqueous solution (1.76 ml) was stirred at ambient temperature for 6 hours. The resulting solution was diluted with water and extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated in vacuo to afford 4-[(2-aminomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (228 mg).

reactant | 4-[(1-tert-butoxycarbonyl-2-phthalimidomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 312 mg | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC)CN1C(C=2C(C1=O)=CC=CC2)=O | C50H56N6O9
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 1.76 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 4-[(2-aminomethylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 228 mg | NCC=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C37H46N6O5
